US07368461B2
5a. [1,4′]Bipiperidinyl-2-one
2-Oxo-[1,4′]bipiperidinyl-1′-carboxylic acid benzyl ester (2.5 g) and Pearlman's catalyst (0.50 g) was stirred in ethanol (30 mL) under hydrogen (1 atm). After 20 hours the reaction as filtered through celite and concentrated. The title compound was obtained as a white solid (1.45 g). MS: m/z=183 (M+H).

reactant | 2-Oxo-[1,4′]bipiperidinyl-1′-carboxylic acid benzyl ester | 2.5 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)N1C(CCCC1)=O | C18H24N2O3
catalyst | Pearlman's catalyst | 0.50 g | [OH-].[OH-].[Pd+2]
solvent | ethanol | 30 mL | C(C)O | C2H6O
product | [1,4′]Bipiperidinyl-2-one | N1(C(CCCC1)=O)C1CCNCC1 | C10H18N2O
